US07402564B1
These syntheses were carried out according to the scheme shown in FIG. 4. The intermediates described below correspond to those shown in FIG. 4. To a suspension of Boc-D-Phe-OH intermediate I-1 (7.96 g, 30.0 mmol), D-Leu-OBn p-TsOH intermediate I-2 (11.80 g, 30.0 mmol), HOBt monohydrate (4.46 g, 33.0 mmol) and DIEA (8.53 g, 66.0 mmol) in anhydrous THF (250 mL) cooled in an ice-water bath was added EDCI (6.33 g, 33.0 mmol) in four portions over 20 minutes with 5 minutes between each addition. The suspension was stirred overnight from a starting temperature of 0° C. to room temperature. After evaporation of THF, the residue was dissolved in ethyl acetate and washed sequentially with 10% citric acid, saturated NaHCO3 and water. The organic phase was dried over sodium sulfate and evaporated under reduced pressure. The residue was dissolved in DCM, passed through a silica gel plug and eluted with 20% ethyl acetate in hexanes. The eluant was evaporated to give the pure product, Boc-D-Phe-D-Leu-OBn, intermediate I-3 (12.40 g, 88%) as a clear oil. LC-MS: m/z=469 (M+H).

reactant | Boc-D-Phe-OH | N([C@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | HOBt monohydrate | 33.0 mmol, 4.46 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | DIEA | 66.0 mmol, 8.53 g | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 33.0 mmol, 6.33 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | THF | 250 mL | C1CCOC1 | C4H8O
product | Boc-D-Phe-D-Leu-OBn | N([C@H](CC1=CC=CC=C1)C(=O)N[C@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C27H36N2O5
